US07524871B2
Synthesis of (±)-2-[3-[(benzylsulfonyl)amino]-6-metyl-2 -oxo-1(2H)pyridinyl]-N-(2-methyl-4,5,6,7-tetrahydro-2H-indazol-5-yl)acetamide
The title compound was prepared from 2-[3-[(benzylsulfonyl)amino]-6-methyl-2-oxo-1(2H)-pyridinyl]acetic acid and 2-methyl-4,5,6,7-tetrahydro-2H-indazol-5-ylamine hydrochloride using the procedure of EXAMPLE 1 (STEP 6), and was obtained as a faint yellow solid compound.

reactant | 2-[3-[(benzylsulfonyl)amino]-6-methyl-2-oxo-1(2H)-pyridinyl]acetic acid | C(C1=CC=CC=C1)S(=O)(=O)NC=1C(N(C(=CC1)C)CC(=O)O)=O | C15H16N2O5S
reactant | 2-methyl-4,5,6,7-tetrahydro-2H-indazol-5-ylamine hydrochloride | Cl.CN1N=C2CCC(CC2=C1)N
product | (±)-2-[3-[(benzylsulfonyl)amino]-6-metyl-2 -oxo-1(2H)pyridinyl]-N-(2-methyl-4,5,6,7-tetrahydro-2H-indazol-5-yl)acetamide | C(C1=CC=CC=C1)S(=O)(=O)NC=1C(N(C(=CC1)C)CC(=O)NC1CC2=CN(N=C2CC1)C)=O | C23H27N5O4S
